2139-07-26 11:27:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 yo with chronic respiratory and renal failure, came to [**Hospital Unit Name 44**]
   yesterday with worsening mental status and respiratory distress,
   worsening acidosis.
   24 Hour Events:
 PICC LINE - START [**2139-7-25**] 02:38 PM
   Placed on vent AC.
   Poor u/o overnight.
   Minimally responsive
   After discussion with family yesterday, family currently discussing
   goals of care.
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Meropenem - [**2139-7-25**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   NaHCO3
   sevalamer
   nortryptaline
   protonix
   MVI
   SSI
   hydral
   lopressory
   chlorhexadine
   albuterol
   atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-26**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 94 (80 - 102) bpm
   BP: 110/49(65) {75/35(45) - 127/70(82)} mmHg
   RR: 22 (13 - 22) insp/min
   SpO2: 100%
                  Total In:
                                                                    340 mL
                                                                     60 mL
   PO:
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                     40 mL
                                                                     38 mL
   Urine:
                                                                     40 mL
                                                                     38 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    300 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 712 (712 - 712) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.18/32/116/11/-15
   Ve: 9.5 L/min
   PaO2 / FiO2: 387
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: Left eye nonreactive
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Crackles : at bases bilaterally)
   Abdominal: Non-tender, Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   424 K/uL
   76 mg/dL
   7.6 mg/dL
   11 mEq/L
   4.4 mEq/L
   59 mg/dL
   106 mEq/L
   134 mEq/L
   26.3 %
   12.5 K/uL
        [image002.jpg]
                             [**2139-7-22**]  10:29 AM
                             [**2139-7-22**]  11:52 AM
                             [**2139-7-22**]  06:08 PM
                             [**2139-7-25**]  05:30 PM
                             [**2139-7-25**]  06:27 PM
                             [**2139-7-25**]  09:13 PM
                             [**2139-7-25**]  10:45 PM
                             [**2139-7-26**]  05:52 AM
   WBC
   12.0
   12.5
   Hct
   27.7
   26.3
   Plt
   465
   424
   Cr
   6.3
   6.1
   7.3
   7.4
   7.6
   TropT
   1.42
   TCO2
   13
   13
   Glucose
   66
   80
   77
   79
   76
   Other labs: PT / PTT / INR:21.5/44.3/2.0, CK / CKMB /
   Troponin-T:424/12/1.42, Lactic Acid:0.6 mmol/L, Ca++:8.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   Respiratory failure:  Likely component of pulmonary edema plus COPD.
   On steroids and nebs for COPD.  In renal failure, so unable to diurese
   Acidosis and acute on chronic renal failure:  Continue HCO3 PO.
   Leukocytosis/UTI: On meropenem for enterobacter
   poor MS:  Multiple medical problems/renal failure:  Likely due to
   toxic-metabolic reasons.
   Nutrition:  will need TFs if family continues to want aggressive care.
   HTN:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-7-25**] 02:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2139-07-27 07:33:00 Physician Resident Progress Note
Chief Complaint: ARF, UTI, Resp Failure
   24 Hour Events:
   Cardiac enzymes sent yesterday. New LBBB on ECG. Repeat ABG with
   improvement in acidosis.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Meropenem - [**2139-7-26**] 05:40 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-27**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 99 (94 - 101) bpm
   BP: 138/76(91) {107/48(62) - 138/76(91)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    720 mL
                                                                    174 mL
   PO:
             TF:
   IVF:
                                                                    340 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                     73 mL
                                                                     12 mL
   Urine:
                                                                     73 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    647 mL
                                                                    162 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 541 (500 - 541) mL
   Vt (Spontaneous): 697 (541 - 697) mL
   PS : 14 cmH2O
   RR (Set): 22
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 30
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ///12/
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bases b/l, Absent : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   430 K/uL
   7.9 g/dL
   103 mg/dL
   7.5 mg/dL
   12 mEq/L
   4.1 mEq/L
   63 mg/dL
   104 mEq/L
   133 mEq/L
   24.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2139-7-22**]  10:29 AM
                             [**2139-7-22**]  11:52 AM
                             [**2139-7-22**]  06:08 PM
                             [**2139-7-25**]  05:30 PM
                             [**2139-7-25**]  06:27 PM
                             [**2139-7-25**]  09:13 PM
                             [**2139-7-25**]  10:45 PM
                             [**2139-7-26**]  05:52 AM
                             [**2139-7-26**]  09:24 PM
                             [**2139-7-27**]  03:14 AM
   WBC
   12.0
   12.5
   10.2
   Hct
   27.7
   26.3
   24.0
   Plt
   465
   424
   430
   Cr
   6.3
   6.1
   7.3
   7.4
   7.6
   7.4
   7.5
   TropT
   1.42
   0.96
   0.88
   0.78
   TCO2
   13
   13
   Glucose
   66
   80
   77
   79
   76
   112
   103
   Other labs: PT / PTT / INR:23.6/47.1/2.3, CK / CKMB /
   Troponin-T:134/10/0.78, Lactic Acid:0.7 mmol/L, Ca++:8.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:6.6 mg/dL
   Imaging: [**7-26**] RENAL ULTRASOUND: The right kidney measures 9.9 cm and
   the left kidney
   measures 10.1 cm. Both kidneys demonstrate multiple small cysts, which
   are
   largely unchanged from the prior examination. There is no
   hydronephrosis,
   stones or solid renal mass. The bladder is decompressed.
   IMPRESSION: No hydronephrosis or stones. Multiple simple cysts,
   unchanged.
   .
   [**7-26**] CXR CHEST
   There has been no significant change since the prior chest x-ray. No
   pneumonia or failure is currently seen. Heart remains somewhat enlarged
   however.
   IMPRESSION: No change.
   Microbiology: [**2139-7-26**] 9:18 am STOOL     CONSISTENCY: SOFT      Source:
   Stool.
                               **FINAL REPORT [**2139-7-27**]**
      CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Final [**2139-7-27**]):
         FECES NEGATIVE FOR C. DIFFICILE TOXIN BY EIA.
              (Reference Range-Negative).
   Assessment and Plan
   P:69 yo female with multiple medical problems including DM2, recent
   MRSA bacteremia, COPD s/p trach, CKD, originally admitted to the ICU
   with altered mental status found to have UTI, partial SBO and acute
   renal failure now being transferred back to the ICU for ventilator
   support
   .
   # Acute on chronic Respiratory Failure - s/p trach 03/[**2139**]. Was
   originally on face mask. Now more acedemic likely seconday to renal
   failure and not able to compensate. Also, not moving much air likley
   secondary to COPD exacerbation. CXR unchanged. She does not appear
   overtly volume overloaded despite being oliguric.
   - Continue albuterol and ipratropium nebs as needed.
   - Continue prednisone  - 60mg daily
 plan for long taper
   - Restart on vent with goal pH of 7.2, no improvement with PSV will
   continue AS for now
   - Hold on IVF at this point and reserve only for hypotension
   - Continue po bicarb
   - Monitor VBG
   - Repeat CXR in AM
   .
   # Acute renal failure: Baseline creatinine 1.5-1.8 prior to last
   admission, however on last discharge Cr was 4.2 (felt to be her new
   baseline).  During that admission rise in creatinine was attributed to
   ATN.  She was also noted to have positive urine eos and cetazadime was
   discontinued.  Also noted to have renal mass on CT. Originally given
   IVF on admission with no improvement. Now with continued worsening
   renal function and acidemia (creatinine 7.0). Dialysis has been
   discussed but to felt to be needed urgently.
   - appreciate nephrology recs
   - conrrect acid-base disturbance as much as possible with vent
   - d/c IV HCO3 for now
   - In speaking with the family today, the are still interested in
   dialysis
   .
   # UTI: History of bad panresistant infections.  She had VRE (sensitive
   to linezolid) and cefepime resistant nonfermenter nonpseudomonas
   (sensitive to cipro) on urine culture dated [**6-29**].  Positive UA with mod
   leuk, pos nit.    Elevated WBC count, currently afebrile.  BP stable.
   Lactate within normal limits. Urine culture with enterobacter sensitive
   to meropenum
   - continue meropenum for presumed UTI
   .
   # Altered mental status: On admission patient was somnolent but
   responding to commands.  According to team she is only slightly more
   somnolent than her prior baseline. Head CT negative for evidence of
   bleed. AMS likely due to infection given negative head CT. Now she does
   not follow commands, barely opens eyes to sternal rub.  Likely
   multifactorial including infection, renal failure. Consider status
   epillepticus, but less likely given does intermittently wake up and has
   other reasons for altered mental status.
   - Hold sedating medications including Fentanyl patch
   - Treat urinary tract infection
   - if no improvement, consider EEG
   .
   # Small bowel obstruction: Partial SBO noted on CT scan from outside
   hospital.  Seen by surgery in the ED - nonoperative candidate, NG tube
   placed.  Abdominal exam notable for distension, nontender, diminished
   BS, now soft with + BS
   - Serial abdominal exams, continue NGT
 clinically improving
   - NPO as diet, IVF PRN
   - Need to address nutritional status with family as patient had
   declined tube feeds in the past
   .
   # NSTEMI:  Troponin of 1.51 on admission to ED in setting of increased
   creatinine.  Case discussed with cardiology who did not feel
   intervention necessary at this time.  At this point timing of event is
   unclear.  [**Name2 (NI) 278**] echo on [**6-29**] showed EF 50-55%, repeat on [**7-22**] no new
   focal wall motion abnormalities, but suboptimal study.  Currently
   denies CP.
   - Continue beta blocker, aspirin
   .
   # Seizures:
   - Continue trileptal
   .
   #. Diabetes Mellitus:
   - FS QID, continue on RISS
   .
   #. Chronic diastolic heart failure:
   - Continue beta blocker at slightly decreased dose.  Titrate up as
   tolerated to home dose.
   - Monitor volume status
   .
   # Hypertension: Has been intermittently hypotensive.
   - DC hydral and diltiazem for low BP
   - continue BB
   .
   #. Nutrition: As of last discharge the patient was currently tolerating
   minimal po intake with PMV. Speech and swallow cleared patient for
   taking meds crushed in purees and small amounts of puress and ice chips
   whicle trach collar in place with cuff deflated and PMV in place.
   There was a family discussion and patient declined placement of Dobhoff
   or PEG tube. Now the patient's family is saying that they want her to
   get TFs and possibly a PEG tube.  This will need to be readdressed.
   Plan for additional family meeting
   .
   # PPx: PPI, heparin subq, bowel regimen
   .
   # Code: Full Code
 family meeting planned to discuss goals of care.
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-7-25**] 02:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2139-07-27 11:20:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 yo with chronic respiratory and renal failure, came to [**Hospital Unit Name 44**] with
   worsening mental status and respiratory distress, worsening acidosis,
   poor urine output. H/O COPD, chronic renal failure,  chronic diastolic
   heart failure, chronic respiratory failure requiring trach, DM, prior
   PE, multiple abdominal surgeries for SBO/hematoma.
   24 Hour Events:
   Patient unable to provide history: Unresponsive, trached, on vent
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Meropenem - [**2139-7-26**] 05:40 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-27**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 90 (90 - 101) bpm
   BP: 142/74(90) {107/48(62) - 142/76(91)} mmHg
   RR: 16 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    720 mL
                                                                    209 mL
   PO:
             TF:
   IVF:
                                                                    340 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                     73 mL
                                                                     34 mL
   Urine:
                                                                     73 mL
                                                                     34 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    647 mL
                                                                    175 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 541 (500 - 541) mL
   Vt (Spontaneous): 697 (541 - 697) mL
   PS : 14 cmH2O
   RR (Set): 22
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 30
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: ///12/
   Ve: 8.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   430 K/uL
   103 mg/dL
   7.5 mg/dL
   12 mEq/L
   4.1 mEq/L
   63 mg/dL
   104 mEq/L
   133 mEq/L
   24.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2139-7-22**]  10:29 AM
                             [**2139-7-22**]  11:52 AM
                             [**2139-7-22**]  06:08 PM
                             [**2139-7-25**]  05:30 PM
                             [**2139-7-25**]  06:27 PM
                             [**2139-7-25**]  09:13 PM
                             [**2139-7-25**]  10:45 PM
                             [**2139-7-26**]  05:52 AM
                             [**2139-7-26**]  09:24 PM
                             [**2139-7-27**]  03:14 AM
   WBC
   12.0
   12.5
   10.2
   Hct
   27.7
   26.3
   24.0
   Plt
   465
   424
   430
   Cr
   6.3
   6.1
   7.3
   7.4
   7.6
   7.4
   7.5
   TropT
   1.42
   0.96
   0.88
   0.78
   TCO2
   13
   13
   Glucose
   66
   80
   77
   79
   76
   112
   103
   Other labs: PT / PTT / INR:23.6/47.1/2.3, CK / CKMB /
   Troponin-T:134/10/0.78, Lactic Acid:0.7 mmol/L, Ca++:8.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   Resp failure, acute on chronic renal failure, alt mental status,
   worsening metabolic acidosis.
   Treated empirically for COPD exacerbation- on prednisone 60 mg daily.
   CHF doesn't seem to be major component based on exam, cxr.
   Renal failure - no acute indication for dialysis but oliguric.
   Need family meeting to address multiple organ failures which are acute
   on chronic.
   Poor nutrition- pt refused feeding tube in the past and has had very
   poor PO intake over the past few weeks. Has feeding tube but pt has
   refused tube feeds, refused PEG, refused placement of dobhoff. Will
   discuss with family and determine feeding plan today.
   Meropenem for UTI.
   Partial SBO, good bowel sounds.
   Need family meeting- will also try to include Dr [**Last Name (STitle) 616**] and renal
   service.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-7-25**] 02:38 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other)
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 1 minutes
   Patient is critically ill

2139-07-28 07:23:00 Physician Resident Progress Note
Chief Complaint: AMS, ARF, Acute on chronic resp failure
   24 Hour Events:
   Pt continues to be minimally responsive to all stimuli. Family meeting
   held yesterday and code status changed to DNR. Plan to hold on HD. Will
   continue vent for pt comfort.
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Meropenem - [**2139-7-26**] 05:40 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-28**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 86 (76 - 100) bpm
   BP: 135/68(85) {123/62(78) - 153/84(100)} mmHg
   RR: 12 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    670 mL
                                                                     73 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    104 mL
                                                                    174 mL
   Urine:
                                                                    104 mL
                                                                     24 mL
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                    566 mL
                                                                   -101 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (440 - 750) mL
   PS : 14 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 29
   SpO2: 100%
   ABG: ///13/
   Ve: 9 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   poor air exchange throughout
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, L rectus sheath wound - dressing in place
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   435 K/uL
   7.8 g/dL
   64 mg/dL
   7.6 mg/dL
   13 mEq/L
   3.4 mEq/L
   72 mg/dL
   105 mEq/L
   136 mEq/L
   23.7 %
   10.6 K/uL
        [image002.jpg]
                             [**2139-7-22**]  11:52 AM
                             [**2139-7-22**]  06:08 PM
                             [**2139-7-25**]  05:30 PM
                             [**2139-7-25**]  06:27 PM
                             [**2139-7-25**]  09:13 PM
                             [**2139-7-25**]  10:45 PM
                             [**2139-7-26**]  05:52 AM
                             [**2139-7-26**]  09:24 PM
                             [**2139-7-27**]  03:14 AM
                             [**2139-7-28**]  04:30 AM
   WBC
   12.0
   12.5
   10.2
   10.6
   Hct
   27.7
   26.3
   24.0
   23.7
   Plt
   465
   424
   430
   435
   Cr
   6.1
   7.3
   7.4
   7.6
   7.4
   7.5
   7.6
   TropT
   0.96
   0.88
   0.78
   TCO2
   13
   13
   Glucose
   80
   77
   79
   76
   112
   103
   64
   Other labs: PT / PTT / INR:23.6/47.1/2.3, CK / CKMB /
   Troponin-T:134/10/0.78, Lactic Acid:0.7 mmol/L, Ca++:8.4 mg/dL,
   Mg++:2.6 mg/dL, PO4:6.8 mg/dL
   Microbiology: [**2139-7-26**] 9:18 am STOOL     CONSISTENCY: SOFT      Source:
   Stool.
                               **FINAL REPORT [**2139-7-27**]**
      CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Final [**2139-7-27**]):
         FECES NEGATIVE FOR C. DIFFICILE TOXIN BY EIA.
              (Reference Range-Negative).
   [**7-22**] - Blooc Cx - NGTD
   Assessment and Plan
   P:69 yo female with multiple medical problems including DM2, recent
   MRSA bacteremia, COPD s/p trach, CKD, originally admitted to the ICU
   with altered mental status found to have UTI, partial SBO and acute
   renal failure now being transferred back to the ICU with acute on
   chronic multiorgan system failure.
   .
   # Altered mental status: On admission patient was somnolent but
   responding to commands.  According to team she is only slightly more
   somnolent than her prior baseline. Head CT negative for evidence of
   bleed. Likely multifactorial including infection, renal failure, poor
   nutrition.
   - Hold sedating medications including Fentanyl patch
   - Treat urinary tract infection
   - Address nutritional status with family re desire for feeding tube
   .
   # Acute on chronic Respiratory Failure - s/p trach 03/[**2139**]. Was
   originally on face mask. Now more acedemic likely seconday to renal
   failure and not able to compensate. Also, not moving much air likley
   secondary to COPD exacerbation. CXR unchanged. She does not appear
   overtly volume overloaded despite being oliguric.
   - Continue albuterol and ipratropium nebs as needed.
   - Continue prednisone  - 60mg daily
 plan for long taper
   - Restart on vent with goal pH of 7.2, no improvement with PSV will
   continue AS for now
   - Hold on IVF at this point and reserve only for hypotension
   - Continue po bicarb
   - Monitor VBG
   .
   # Acute renal failure: Pt with progressive worsening of renal failure
   Cr now 7.5. Likely related to ATN during previous episodes of
   hypotension also recurrent UTIs, possible prior AIN. Dialysis has been
   discussed but to felt to be needed urgently.
   - appreciate nephrology recs
 discuss future HD with family
 felt it
   will like not alter long-term outcome given multiorgan system failure
   - conrrect acid-base disturbance as much as possible with vent
   - renal US negative for obstruction
   .
   # UTI: History of bad panresistant infections.  Urine culture with
   enterobacter sensitive to meropenum
   - continue meropenum for UTI
   .
   # Small bowel obstruction: Partial SBO noted on CT scan from outside
   hospital.  Seen by surgery in the ED - nonoperative candidate, NG tube
   placed.  Abdominal exam notable for distension, nontender, diminished
   BS, now soft with + BS
   - Serial abdominal exams, continue NGT
 clinically improving
   - NPO as diet, IVF PRN
   - Need to address nutritional status with family as patient had
   declined tube feeds in the past
   .
   # NSTEMI:  Troponin of 1.51 on admission to ED in setting of increased
   creatinine.  Case discussed with cardiology who did not feel
   intervention necessary at this time.  At this point timing of event is
   unclear.  [**Name2 (NI) 278**] echo on [**6-29**] showed EF 50-55%, repeat on [**7-22**] no new
   focal wall motion abnormalities, but suboptimal study.  Pt with
   increasing ectopy on telemetry
 rate related LBBB. Troponins trending
   down overall from admission
   - Continue beta blocker, aspirin
   .
   # Seizures:
   - Continue trileptal
   .
   #. Diabetes Mellitus:
   - FS QID, continue on RISS
   .
   #. Chronic diastolic heart failure:
   - Continue beta blocker at slightly decreased dose.
   - Monitor volume status
   .
   # Hypertension: Has been intermittently hypotensive.
   - DC hydral and diltiazem for low BP
   - continue BB
   .
   #. Nutrition: As of last discharge the patient was currently tolerating
   minimal po intake with PMV. Speech and swallow cleared patient for
   taking meds crushed in purees and small amounts of puress and ice chips
   whicle trach collar in place with cuff deflated and PMV in place.
   There was a family discussion and patient declined placement of Dobhoff
   or PEG tube. Will hold on TF for now per discussion with family.
   .
   # PPx: PPI, bowel regimen
   .
   # Code: DNR
 family meeting held on [**7-27**]. Cardiac resuscitation not
   medically indicated given pt
s multiorgan system failure. Family
   agreeable to change in code status
   .
   # Goals of care
 family meeting held today. Family members will
   consider transitioning to goals of comfort given pt
s overall poor
   prognosis. Will continue aggressive medical regimen but hold on any
   procedures that may cause pt discomfort. No acute indication for HD,
   family will continue to discuss possibility of future HD.
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-7-25**] 02:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2139-07-29 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Lower GI bleed yesterday am. Discussed w/ family, plan for focusing on
   comfort, no transfusions
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Meropenem - [**2139-7-28**] 06:57 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-7-29**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-29**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 84 (83 - 101) bpm
   BP: 138/76(92) {125/61(77) - 153/85(103)} mmHg
   RR: 11 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    470 mL
                                                                     80 mL
   PO:
             TF:
   IVF:
                                                                    340 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                    524 mL
                                                                     70 mL
   Urine:
                                                                    154 mL
                                                                     70 mL
   NG:
                                                                     20 mL
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                    -54 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///10/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   456 K/uL
   7.6 g/dL
   53 mg/dL
   8.4 mg/dL
   10 mEq/L
   3.4 mEq/L
   75 mg/dL
   105 mEq/L
   135 mEq/L
   22.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2139-7-22**]  06:08 PM
                             [**2139-7-25**]  05:30 PM
                             [**2139-7-25**]  06:27 PM
                             [**2139-7-25**]  09:13 PM
                             [**2139-7-25**]  10:45 PM
                             [**2139-7-26**]  05:52 AM
                             [**2139-7-26**]  09:24 PM
                             [**2139-7-27**]  03:14 AM
                             [**2139-7-28**]  04:30 AM
                             [**2139-7-29**]  04:27 AM
   WBC
   12.5
   10.2
   10.6
   11.2
   Hct
   26.3
   24.0
   23.7
   22.7
   Plt
   [**Telephone/Fax (3) 3246**]56
   Cr
   6.1
   7.3
   7.4
   7.6
   7.4
   7.5
   7.6
   8.4
   TropT
   0.96
   0.88
   0.78
   TCO2
   13
   13
   Glucose
   80
   77
   79
   76
   112
   103
   64
   53
   Other labs: PT / PTT / INR:23.6/47.1/2.3, CK / CKMB /
   Troponin-T:134/10/0.78, Lactic Acid:0.7 mmol/L, Ca++:8.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   P:69 yo female with multiple medical problems including DM2, recent
   MRSA bacteremia, COPD s/p trach, CKD, originally admitted to the ICU
   with altered mental status found to have UTI, partial SBO and acute
   renal failure now being transferred back to the ICU with acute on
   chronic multiorgan system failure.
   # Altered mental status: On admission patient was somnolent but
   responding to commands.  According to team she is only slightly more
   somnolent than her prior baseline. Head CT negative for evidence of
   bleed. Likely multifactorial including infection, renal failure, poor
   nutrition.
   - Treat urinary tract infection
   - Per family discuss
 hold on tube feeding as pt w/ discomfort from NG
   # Acute on chronic Respiratory Failure - s/p trach 03/[**2139**]. Was
   originally on face mask. Now more acedemic likely seconday to renal
   failure and not able to compensate. Also, not moving much air likley
   secondary to COPD exacerbation. CXR unchanged. She does not appear
   overtly volume overloaded despite being oliguric.
   - Continue albuterol and ipratropium nebs as needed.
   - Convert steroids to IV as plan to withdraw NGT
   - Restart on vent with goal pH of 7.2,
   - Hold on IVF at this point and reserve only for hypotension
   - DC po bicarb
   # Acute renal failure: Pt with progressive worsening of renal failure
   Cr now 7.5. Likely related to ATN during previous episodes of
   hypotension also recurrent UTIs, possible prior AIN. Dialysis has been
   discussed but to felt to be needed urgently.
   - appreciate nephrology recs
 discuss future HD with family
 felt it
   will like not alter long-term outcome given multiorgan system failure
   - conrrect acid-base disturbance as much as possible with vent
   - renal US negative for obstruction
   -started steroids for ?AIN
   # UTI: History of bad panresistant infections.  Urine culture with
   enterobacter sensitive to meropenum
   - continue meropenum for UTI
   # Small bowel obstruction: Partial SBO noted on CT scan from outside
   hospital.  Seen by surgery in the ED - nonoperative candidate, NG tube
   placed.  Abdominal exam notable for distension, nontender, diminished
   BS, now soft with + BS
   - Serial abdominal exams, continue NGT
 clinically improving
   - NPO as diet, IVF PRN
   - Need to address nutritional status with family as patient had
   declined tube feeds in the past  - continue to hold per family meeting
   # NSTEMI:  Troponin of 1.51 on admission to ED in setting of increased
   creatinine.  Case discussed with cardiology who did not feel
   intervention necessary at this time.  At this point timing of event is
   unclear.  [**Name2 (NI) 278**] echo on [**6-29**] showed EF 50-55%, repeat on [**7-22**] no new
   focal wall motion abnormalities, but suboptimal study.  Pt with
   increasing ectopy on telemetry
 rate related LBBB. Troponins trending
   down overall from admission
   - Continue beta blocker
   # Seizures:
   - Continue trileptal
 hold given DC of NGT
   #. Diabetes Mellitus:
   - FS QID, continue on RISS
   #. Chronic diastolic heart failure:
   - Continue beta blocker at slightly decreased dose.
   - Monitor volume status
   # Hypertension: Has been intermittently hypotensive.
   - DC hydral and diltiazem for low BP
   - continue BB
   #. Nutrition: As of last discharge the patient was currently tolerating
   minimal po intake with PMV. Speech and swallow cleared patient for
   taking meds crushed in purees and small amounts of puress and ice chips
   whicle trach collar in place with cuff deflated and PMV in place.
   There was a family discussion and patient declined placement of Dobhoff
   or PEG tube. Will hold on TF for now per discussion with family.
   # PPx: PPI, bowel regimen
   # Code: DNR
 family meeting held on [**7-27**]. Cardiac resuscitation not
   medically indicated given pt
s multiorgan system failure. Family
   agreeable to change in code status
   # Goals of care
 family meeting held today. Family members will
   consider transitioning to goals of comfort given pt
s overall poor
   prognosis. Will continue medical regimen but hold on any procedures
   that may cause pt discomfort. Focus goals of care on comfort
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-7-25**] 02:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2139-07-29 12:24:00 Physician Attending Progress Note
Chief Complaint: multiorgan dysfunction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   BRBPR yesterday.  In discussion with family, no plans were made for
   transfusions or work-up.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Meropenem - [**2139-7-28**] 06:57 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-7-29**] 01:00 AM
   Other medications:
   Pantoprazoe, fluticasone, albuterol, atrovent, solumedrol
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: mild headache
   Flowsheet Data as of  [**2139-7-29**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.7
   HR: 88 (83 - 101) bpm
   BP: 143/60(83) {125/60(77) - 155/85(103)} mmHg
   RR: 12 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    470 mL
                                                                    121 mL
   PO:
             TF:
   IVF:
                                                                    340 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                    524 mL
                                                                     97 mL
   Urine:
                                                                    154 mL
                                                                     97 mL
   NG:
                                                                     20 mL
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                    -54 mL
                                                                     24 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///10/
   Physical Examination
   General Appearance: Somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, No(t) Oriented (to): Not
   oriented, Movement: Not assessed, Tone: decreased
   Labs / Radiology
   7.6 g/dL
   456 K/uL
   53 mg/dL
   8.4 mg/dL
   10 mEq/L
   3.4 mEq/L
   75 mg/dL
   105 mEq/L
   135 mEq/L
   22.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2139-7-22**]  06:08 PM
                             [**2139-7-25**]  05:30 PM
                             [**2139-7-25**]  06:27 PM
                             [**2139-7-25**]  09:13 PM
                             [**2139-7-25**]  10:45 PM
                             [**2139-7-26**]  05:52 AM
                             [**2139-7-26**]  09:24 PM
                             [**2139-7-27**]  03:14 AM
                             [**2139-7-28**]  04:30 AM
                             [**2139-7-29**]  04:27 AM
   WBC
   12.5
   10.2
   10.6
   11.2
   Hct
   26.3
   24.0
   23.7
   22.7
   Plt
   [**Telephone/Fax (3) 3246**]56
   Cr
   6.1
   7.3
   7.4
   7.6
   7.4
   7.5
   7.6
   8.4
   TropT
   0.96
   0.88
   0.78
   TCO2
   13
   13
   Glucose
   80
   77
   79
   76
   112
   103
   64
   53
   Other labs: PT / PTT / INR:23.6/47.1/2.3, CK / CKMB /
   Troponin-T:134/10/0.78, Lactic Acid:0.7 mmol/L, Ca++:8.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   P:69 yo female with multiple medical problems including DM2, recent
   MRSA bacteremia, COPD s/p trach, CKD, originally admitted to the ICU
   with altered mental status found to have UTI, partial SBO and acute
   renal failure now  in ICU with acute on chronic multiorgan system
   failure.
   # Altered mental status: Likely multifactorial including infection,
   renal failure, poor nutrition. Brighter today.
   - Treat urinary tract infection
   - Per family discuss
 hold on tube feeding as pt w/ discomfort from NG
   # Acute on chronic Respiratory Failure - s/p trach 03/[**2139**]. Continues
   to tolerate trach mask.
   - will not go back on vent as per discussion with daughter, [**Name (NI) 3213**], as
   documented in Dr [**Name (NI) 3129**]
s note in paper chart.
   - Continue albuterol and ipratropium nebs as needed.
   -Continue steroids
   #  GIB:  HCT with small drop. No active bleeding at present.  No plans
   to transfuse or work-up per discussion with family.
   # Acute on chronic renal failure: Pt with progressive worsening of
   renal failure
 Cr now 8.5. Likely related to ATN during previous
   episodes of hypotension also recurrent UTIs, possible prior AIN.
   - no plans for HD
   # UTI: History of bad panresistant infections.  Urine culture with
   enterobacter sensitive to meropenum
   - continue meropenum for UTI
   # Small bowel obstruction: Partial SBO noted on CT scan from outside
   hospital.  Seen by surgery in the ED - nonoperative candidate, NG tube
   placed.  Abdominal exam notable for distension, nontender, diminished
   BS, now soft with + BS
   # NSTEMI:  Troponin of 1.51 on admission to ED in setting of increased
   creatinine.  Case discussed with cardiology who did not feel
   intervention necessary at this time.  At this point timing of event is
   unclear.  [**Name2 (NI) 278**] echo on [**6-29**] showed EF 50-55%, repeat on [**7-22**] no new
   focal wall motion abnormalities, but suboptimal study.  Pt with
   increasing ectopy on telemetry
 rate related LBBB. Troponins trending
   down overall from admission
   - Continue beta blocker
   # Seizures:
   - Continue trileptal
 hold given D/C of NGT
   #. Diabetes Mellitus:
   - FS QID, continue on RISS
   #. Nutrition: As of last discharge the patient was currently tolerating
   minimal po intake with PMV. Speech and swallow cleared patient for
   taking meds crushed in purees and small amounts of puress and ice chips
   whicle trach collar in place with cuff deflated and PMV in place.
   There was a family discussion and patient declined placement of Dobhoff
   or PEG tube. Will hold on TF for now per discussion with family, as
   they feel that the feeding tube was clearly uncomfortable for her.
   # PPx: PPI, bowel regimen
   # Code: DNR
 family meeting held on [**7-27**]. Cardiac resuscitation not
   medically indicated given pt
s multiorgan system failure. Family
   agreeable to change in code status
   # Goals of care
 Family members will consider transitioning to goals
   of comfort given pt
s overall poor prognosis. Will continue medical
   regimen but hold on any procedures that may cause pt discomfort. Focus
   goals of care on comfort
   ICU Care
   Lines:
   PICC Line - [**2139-7-25**] 02:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill

2139-07-30 07:39:00 Physician Resident Progress Note
Chief Complaint: Multiorgan system Failure
   24 Hour Events: Pt resting comfortably this am. Minimal vocalization
   with family at bedside.
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Meropenem - [**2139-7-29**] 04:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-7-30**] 05:00 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-30**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 87 (85 - 94) bpm
   BP: 145/73(91) {130/60(78) - 155/81(98)} mmHg
   RR: 11 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    340 mL
                                                                     76 mL
   PO:
             TF:
   IVF:
                                                                    340 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    164 mL
                                                                     45 mL
   Urine:
                                                                    164 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    176 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   Poor Air exchange throughout. Crackles at bases.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   456 K/uL
   7.6 g/dL
   53 mg/dL
   8.4 mg/dL
   10 mEq/L
   3.4 mEq/L
   75 mg/dL
   105 mEq/L
   135 mEq/L
   22.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2139-7-22**]  06:08 PM
                             [**2139-7-25**]  05:30 PM
                             [**2139-7-25**]  06:27 PM
                             [**2139-7-25**]  09:13 PM
                             [**2139-7-25**]  10:45 PM
                             [**2139-7-26**]  05:52 AM
                             [**2139-7-26**]  09:24 PM
                             [**2139-7-27**]  03:14 AM
                             [**2139-7-28**]  04:30 AM
                             [**2139-7-29**]  04:27 AM
   WBC
   12.5
   10.2
   10.6
   11.2
   Hct
   26.3
   24.0
   23.7
   22.7
   Plt
   [**Telephone/Fax (3) 3246**]56
   Cr
   6.1
   7.3
   7.4
   7.6
   7.4
   7.5
   7.6
   8.4
   TropT
   0.96
   0.88
   0.78
   TCO2
   13
   13
   Glucose
   80
   77
   79
   76
   112
   103
   64
   53
   Other labs: PT / PTT / INR:23.6/47.1/2.3, CK / CKMB /
   Troponin-T:134/10/0.78, Lactic Acid:0.7 mmol/L, Ca++:8.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   P:69 yo female with multiple medical problems including DM2, recent
   MRSA bacteremia, COPD s/p trach, CKD, originally admitted to the ICU
   with altered mental status found to have UTI, partial SBO and acute
   renal failure now with acute on chronic multiorgan system failure.
   .
   # Altered mental status: Improving, very likely multifactorial- renal
   failure, poor nutrition, active infection.
   -recognizes family and able to answer questions appropriately but does
   wax and wane
   - Per family discuss
 hold on tube feeding as pt w/ discomfort from NG
   - Continue morphine prn pain/discomfort
   .
   # Acute on chronic Respiratory Failure - s/p trach 03/[**2139**].
   -on trach collar
   - per family discussion on [**7-29**]
 will not put back on vent if resp
   status worsens as it will likely not improve comfort or survival in any
   long term sense
   -COPD treatment with nebs and steroids (solumedrol 40mg daily, taper q4
   days)
   .
   # Acute renal failure: ? some component of AIN, already on steroids,
   more likely due to ATN from initial sepsis without full recovery.
   -dialysis not indicated as will not improve overall long term survival
   .
   # UTI: History of bad panresistant infections.  Urine culture with
   enterobacter sensitive to meropenum
   - continue meropenum for UTI Day 7 [**7-31**]
   .
   # Lower GI bleed
 likely due to coagulopathy from poor nutrition
 per
   family discussion plan to hold on blood transfusions/procedures,focus
   on comfort
   .
   # SBO: s/p NGT decompression, now w/ blood in stool, possibly ischemic
   bowel.  Per family no surgical intervention or blood transfusion, focus
   on comfort.
   .
   # Seizures:
   - trileptal
 held given DC of NGT
   .
   #. Diabetes Mellitus:
   -          d/c finger sticks given focus towards comfort
   .
   #. Nutrition: patient / family does not want tube feeding, patient not
   eating, no appetite.
   # PPx: PPI
   .
   # Code: DNR
 discussion transition to comfort measures given
   persistent multiorgan system failure despite medical therapy
   .
   # Dispo: able to transfer to medical floor
 no further vent
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2139-7-25**] 02:38 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNR / DNI
   Disposition: Transfer to medical floor
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above and below.
   Appears very comfortable. Breathing is unlabored. Answering questions.
   Treating with goal of comfort.
   Appropriate for transfer to medical floor or skilled facility.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2139-7-30**] 17:05 ------

2139-07-31 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Meropenem - [**2139-7-30**] 03:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-7-31**] 12:30 AM
   Lorazepam (Ativan) - [**2139-7-31**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-31**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 94 (89 - 100) bpm
   BP: 134/57(77) {134/57(77) - 149/78(94)} mmHg
   RR: 12 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    440 mL
                                                                     74 mL
   PO:
             TF:
   IVF:
                                                                    440 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    232 mL
                                                                     50 mL
   Urine:
                                                                    232 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    208 mL
                                                                     24 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   456 K/uL
   7.6 g/dL
   53 mg/dL
   8.4 mg/dL
   10 mEq/L
   3.4 mEq/L
   75 mg/dL
   105 mEq/L
   135 mEq/L
   22.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2139-7-22**]  06:08 PM
                             [**2139-7-25**]  05:30 PM
                             [**2139-7-25**]  06:27 PM
                             [**2139-7-25**]  09:13 PM
                             [**2139-7-25**]  10:45 PM
                             [**2139-7-26**]  05:52 AM
                             [**2139-7-26**]  09:24 PM
                             [**2139-7-27**]  03:14 AM
                             [**2139-7-28**]  04:30 AM
                             [**2139-7-29**]  04:27 AM
   WBC
   12.5
   10.2
   10.6
   11.2
   Hct
   26.3
   24.0
   23.7
   22.7
   Plt
   [**Telephone/Fax (3) 3246**]56
   Cr
   6.1
   7.3
   7.4
   7.6
   7.4
   7.5
   7.6
   8.4
   TropT
   0.96
   0.88
   0.78
   TCO2
   13
   13
   Glucose
   80
   77
   79
   76
   112
   103
   64
   53
   Other labs: PT / PTT / INR:23.6/47.1/2.3, CK / CKMB /
   Troponin-T:134/10/0.78, Lactic Acid:0.7 mmol/L, Ca++:8.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   69 yo female with multiple medical problems including DM2, recent MRSA
   bacteremia, COPD s/p trach, CKD, originally admitted to the ICU with
   altered mental status found to have UTI, partial SBO and acute renal
   failure now with acute on chronic multiorgan system failure.
   Altered mental status: stable.  Somnolent.  Very likely toxic
   metabolic.
   Acute on chronic Respiratory Failure - s/p trach 03/[**2139**].
   -on trach collar
   -not to be re-vented per family
   -COPD- on solumedrol, taper to 30mg daily today and q3  days
   Acute renal failure: no dialysis.
   UTI: last day of meropenem today.
   Nutrition: patient / family does not want tube feeding, patient not
   eating, no appetite.
   Code: comfort measures, no re vent or escalation of care.  plan to send
   to rehab as comfort measures.
   Dispo: able to transfer to medical floor
 no further vent
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-7-25**] 02:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: